US08497371B2
2-(4-{[(3,5-bis(trifluoromethyl)phenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (18)
Pipemidic acid (40 mg, 0.132 mmol) and 3,5-bis(trifluoromethyl)phenyl isothiocyanate (20 μL, 0.110 mmol) were used. Purification on silica yielded compound 18 in Table 1, below (61 mg, 97%). 1H NMR (300 MHz, CDCl3) δ 9.30 (s, 1H), 8.68 (s, 1H), 8.62 (s, 1H), 7.94 (s, 2H), 7.62 (s, 1H), 4.42-4.05 (m, 10H), 1.51 (t, J=7.07 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.132 mmol, 40 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 3,5-bis(trifluoromethyl)phenyl isothiocyanate | 0.110 mmol, 20 μL | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
product | 2-(4-{[(3,5-bis(trifluoromethyl)phenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC)(F)F | C23H20F6N6O3S
